US04731358
β-carboline-4-carboxylic acid propyl ester
The compound is produced by transesterification of the β-carboline-4-carboxylic acid-ethyl ester-hydrochloride with n-propanol.

reactant | β-carboline-4-carboxylic acid-ethyl ester-hydrochloride | Cl.C(C)OC(=O)C1=CN=CC=2NC3=CC=CC=C3C12
reactant | n-propanol | C(CC)O | C3H8O
product | β-carboline-4-carboxylic acid propyl ester | C(CC)OC(=O)C1=CN=CC=2NC3=CC=CC=C3C12 | C15H14N2O2
